.SUBCKT NOR2_X2 A1 A2 VDD VSS ZN
MM3 VSS A1 ZN VSS nmos_rvt w=92.0n l=16n nfin=4
MM2 VSS A2 ZN VSS nmos_rvt w=92.0n l=16n nfin=4
MM1 net16 A1 ZN VDD pmos_rvt w=92.0n l=16n nfin=4
MM0 VDD A2 net16 VDD pmos_rvt w=92.0n l=16n nfin=4
.ENDS
