.SUBCKT NOR3_X2 A1 A2 A3 VDD VSS ZN
MM5 VSS A1 ZN VSS nmos_rvt w=92.0n l=16n nfin=4
MM4 VSS A2 ZN VSS nmos_rvt w=92.0n l=16n nfin=4
MM3 VSS A3 ZN VSS nmos_rvt w=92.0n l=16n nfin=4
MM2 net20 A1 ZN VDD pmos_rvt w=92.0n l=16n nfin=4
MM1 net10 A2 net20 VDD pmos_rvt w=92.0n l=16n nfin=4
MM0 VDD A3 net10 VDD pmos_rvt w=92.0n l=16n nfin=4
.ENDS
