.SUBCKT OR2_X1 A1 A2 VDD VSS Z
MM5 Z net2 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 VSS A1 net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 VSS A2 net2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 Z net2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 net2 A1 net6 VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 VDD A2 net6 VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS
