.SUBCKT XNOR2_X1 A B VDD VSS Y
MM4 net015 A Y VSS nmos_rvt w=46.0n l=16n nfin=2
MM5 net015 B Y VSS nmos_rvt w=46.0n l=16n nfin=2
MM6 VSS net29 net015 VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 net29 A net43 VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 net43 B VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM11 net041 A VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM10 Y B net041 VDD pmos_rvt w=46.0n l=16n nfin=2
MM9 Y net29 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 net29 A VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 net29 B VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS
